US07094801B2
4-[3E-(2,4-Dimethoxy-5-pyrazin-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-5-pyrazin-2-yl-benzaldehyde (Ex-46D) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 238° C. (dec.), 4% yield. 1H-NMR (DMSO-D6) δ 9.04 (d, J=2 Hz, 1H), 8.75–8.76 (m, 1H), 8.56 (d, J=2 Hz, 1H), 8.32 (s, 1H), 8.19 (d, J=9 Hz, 2H), 8.05–8.11 (m, 3H), 7.83 (d, J=16 Hz, 1H), 6.90 (s, 1H), 4.05 (s, 3H), 4.00 (s, 3H). HRMS m/z=calc. 391.1294. found 391.1313.

reactant | 2,4-dimethoxy-5-pyrazin-2-yl-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C1=NC=CN=C1 | C13H12N2O3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2,4-Dimethoxy-5-pyrazin-2-yl-phenyl)-acryloyl]-benzoic acid | 4% yield | COC1=C(C=C(C(=C1)OC)C1=NC=CN=C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C22H18N2O5
